US08067595B2
Synthesis of N-methoxyethyl-N-methylbenzylamine (BnMO)
The synthesis of BnMO was carried out in a manner similar to that of BnEO (process 2) using N-methylbenzylamine (15 mL, 0.116 mol), bromoethyl methyl ether (12 mL, 0.116×1.1 mmol), and ethanol (200 mL) as a solvent. BnMO (12.09 g, 67.46 mmol, yield 58%) was obtained as a pale yellow clear liquid.

reactant | N-methylbenzylamine | 0.116 mol, 15 mL | CNCC1=CC=CC=C1 | C8H11N
reactant | bromoethyl methyl ether | 1.1 mmol, 12 mL | COCCBr | C3H7BrO
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | N-methoxyethyl-N-methylbenzylamine | yield 58% | COCCN(C)CC1=CC=CC=C1 | C11H17NO
